US05238683
To quantify glutathione disulfide, the various fluids were mixed, immediately after recovery, with an equal volume of 10 mM N-ethylmaleimide (NEM) in 0.1M potassium phosphate, pH 6.5, containing 17.5 mM EDTA. The samples were then centrifuged at 2000 g, 10 min, and 250 μl of the supernatant was passed through a SEP-PAK C18 cartridge (Waters Associates) that had been washed with 3 ml methanol followed by 3 ml distilled water, and the effluent was collected. GSSG was eluted from the column with 1 ml of 0.1M potassium phosphate, pH 7.5, containing 5 mM EDTA. An aliquot (750 μl) of the combined effluent and eluate was mixed with 250 μl 0.1M potassium phosphate, pH 7.5, containing 5 mM EDTA, 800 μM DTNB, 2 U/ml glutathione reductase, and 1 mM NADPH, and the rate of reduction of DTNB was recorded spectrophotometrically at 412 nm. Standard curves were derived from dilutions of known concentrations of GSSG (0.125 to 4 μM) that had been mixed with 10 mM NEM and chromatographed with SEP-PAK C18 cartridges as described above. If values above the range of the standard curve were observed, parallel runs of samples diluted with 0.9% NaCl were performed. The amount of GSH was obtained by subtracting the amount of GSSG from the total glutathione levels. For both the total glutathione and GSSG assays, standard curves generated in the various fluids were parallel, i.e., the values from all fluids were comparable.

reactant | glutathione disulfide | O=C(N[C@H](C(NCC(O)=O)=O)CSSC[C@H](NC(CC[C@H](N)C(O)=O)=O)C(NCC(O)=O)=O)CC[C@H](N)C(O)=O | C20H32N6O12S2
reactant | N-ethylmaleimide | 10 mM | C(C)N1C(C=CC1=O)=O | C6H7NO2
reactant | EDTA | 17.5 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
solvent | potassium phosphate | 0.1M | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | GSH | C(CC(=O)N[C@@H](CS)C(=O)NCC(=O)O)[C@@H](C(=O)O)N | C10H17N3O6S
